data/rdb19/train.csv
rxn,smiles,ea
3711,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[H:11][C:24]1([H:38])[C:23]([H:37])[C:22]([H:36])=[C:21]([C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([C:20]([H:33])([H:34])[H:35])[H:32])[C:26]([H:40])=[C:25]1[H:39],41.4177233625669
3513,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:10])([H:6])([H:7])[H:8].[H:9][C:17]([C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26],28.428143532190006
2255,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[C:13]([H:25])([H:26])[H:27])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:10]([C:11]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[C:13]([H:25])([H:26])[H:27].[C:1]([C:2]([H:3])([H:4])[C:9]([C:8]([H:14])([H:15])[H:16])([H:17])[H:18])([H:5])([H:6])[H:7],58.2076556988759
1498,[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:21])([H:22])[H:23])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:13])[H:14])[H:6]>>[O:1]([C:2]([O:3][H:24])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:21])([H:22])[H:23])[c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])([H:13])[H:14])[H:6],14.534210879530292
5047,[C:11]([C:12]([C:13]([H:14])[H:15])([O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:6])[H:7].[H:5][C:13]([C:12]([C:11]([H:20])([H:21])[H:22])([O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])[H:23])([H:14])[H:15],20.355407855124213
5366,[C:17]([C:18]([C:19]([H:20])[H:21])([O:22][C:23](=[O:24])[C:25]([H:30])([H:31])[H:32])[H:29])([H:26])([H:27])[H:28].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6][c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:14][C:19]([C:18]([C:17]([H:26])([H:27])[H:28])([O:22][C:23](=[O:24])[C:25]([H:30])([H:31])[H:32])[H:29])([H:20])[H:21],25.078276672051288
3237,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[H:25])([O:26][C:27](=[O:28])[C:29]([H:34])([H:35])[H:36])[H:33])([H:30])([H:31])[H:32]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22](=[C:23]([H:24])[H:25])[O:26][C:27](=[O:28])[C:29]([H:34])([H:35])[H:36])([H:30])([H:31])[H:32].[C:5]([H:15])([H:16])([H:17])[H:33],79.62361650343519
2939,[C:16]([C:17]([C:18]([H:19])[C:20]([C:21]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10].[H:8][C:18]([C:17]([C:16]([H:22])([H:23])[H:24])([H:25])[H:26])([H:19])[C:20]([C:21]([H:29])([H:30])[H:31])([H:27])[H:28],24.583551616116893
2226,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:11]([O:10][C:9]([C:8]([H:17])([H:18])[H:19])([H:20])[H:21])([O:12])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22],51.41717142192647
4973,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[C:15]([C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21])([H:10])[H:11])([H:7])([H:8])[H:9],14.55575493699871
211,[C:12]([C:13](=[O:14])[O:15][C:16](=[C:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:13]([C:12]([H:18])([H:19])[H:20])([O:14])[O:15][C:16](=[C:17]([H:22])[H:23])[H:21],57.76842980115907
